US07229998B2
Ethyl 2-methyl-2-phenoxypropanoate
To a solution of potassium t-butoxide (1M in THF, 531 ml, 0.531 moles, 1 eq) precooled to 0° C. (ice bath) was added phenol (50 g, 0.531 moles, 1 eq) in dry THF (50 ml) dropwise via an addition funnel over 20 minutes maintaining the internal temperature of the reaction below 5 degrees centigrade. Ethyl-2-bromoisobutyrate (70.14 ml, 0.9 eq, 0.478 moles) in dry THF (20 ml) was added dropwise over 10 minutes maintaining the internal reaction temperature below 5° C. After the addition was complete, the ice bath was removed and the reaction was allowed to warm to room temperature. The reaction was brought to reflux and maintained at this reflux temperature for 8 hours. Following the cooling of the reaction to 0° C. the volatiles were removed in vacuo. The residue was then partitioned between EtOAc and 1N NaOH. The phases were separated and the organic phase was washed with 1N NaOH, H2O, brine and dried over Na2SO4. After filtration the solution was concentrated under reduced pressure to yield 83 g (75%) of clean title compound.

reactant | potassium t-butoxide | 0.531 moles, 1M, 531 ml, 1 eq | CC(C)([O-])C.[K+]
reactant | phenol | 0.531 moles, 50 g, 1 eq | C1(=CC=CC=C1)O | C6H6O
reactant | Ethyl-2-bromoisobutyrate | 0.478 moles, 70.14 ml, 0.9 eq | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Ethyl 2-methyl-2-phenoxypropanoate | 83 g, 75% | CC(C(=O)OCC)(C)OC1=CC=CC=C1 | C12H16O3
